US05624901
4-Carboxy-1-methyl-3-hydroxy-2(1H)-pyridinone (6.8 g, 0.04 mol) is mixed with benzyl chloride (12.1 g, 0.088 mol), anhydrous potassium carbonate (13.8 g, 0.1 mol) in anhydrous dimethyl-formamide (DMF) (120 mL). The mixture is heated at 75°-80° C. under N2 in darkness for 16 hours. The reaction mixture is filtered and rotary evaporated to yield a dark oil, which is purified by a silica gel plug as mentioned in 1-methyl-3-hydroxy-2(1H)-pyridinone to give the 3-benzyloxy-4-benzyloxycarbonyl-1-methyl-2(1H)-pyridinone as a pale yellow, thick oil. It is mixed with methanol (50 mL) and a 6M NaOH solution (10 mL). The mixture is stirred at room temperature for 4 hours, then evaporated to dryness. The residue is dissolved in water (100 mL), and acidified with 6M HCl solution to pH 2 to give the title compound (9.3 g 88.7%), as a white crystalline product, m.p. 152°-153° C. 1H NMR(250 MHz, CDCl3): δ3.616 (s, 3H),5.611 (s, 2H), 6.695 (d, 1H, J=7.13),7.152 (d, 1H, J=7.16), 7.35-7.48 (m, 5H). Anal. for C14H13NO4. 0.2H2O (262.87), Calcd. (found): C, 63.97 (64.05); H, 5.14 (5.14); N, 5.33 (5.18).

reactant | 4-Carboxy-1-methyl-3-hydroxy-2(1H)-pyridinone | 0.04 mol, 6.8 g | C(=O)(O)C1=C(C(N(C=C1)C)=O)O | C7H7NO4
reactant | benzyl chloride | 0.088 mol, 12.1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl-formamide | 120 mL | CN(C=O)C | C3H7NO
product | 3-benzyloxy-4-benzyloxycarbonyl-1-methyl-2(1H)-pyridinone | C(C1=CC=CC=C1)OC=1C(N(C=CC1C(=O)OCC1=CC=CC=C1)C)=O | C21H19NO4
